US08871361B2
Synthesis of 3-(1-(3,5-diisopropyl-[1,1′-biphenyl]-4-yl)-1H-imidazol-2-yl)phenol
A mixture of 1-(3,5-diisopropyl-[1,1′-biphenyl]-4-yl)-2-(3-methoxyphenyl)-1H-imidazole (5.57 g, 13.57 mmol) and pyridine hydrochloride (9.41 g, 81 mmol) were fused with stirring at 200° C. for 13 h. After the reaction was complete, the mixture was partitioned between water and AcOEt. AcOEt layer was separated, washed with water (3×) and brine, and then purified by silica gel column chromatography using DCM/MeOH (96/4) as eluant to afford an off-white solid (5.12 g, 95%).

reactant | 1-(3,5-diisopropyl-[1,1′-biphenyl]-4-yl)-2-(3-methoxyphenyl)-1H-imidazole | 13.57 mmol, 5.57 g | C(C)(C)C=1C=C(C=C(C1N1C(=NC=C1)C1=CC(=CC=C1)OC)C(C)C)C1=CC=CC=C1 | C28H30N2O
reactant | pyridine hydrochloride | 81 mmol, 9.41 g | Cl.N1=CC=CC=C1
product | 3-(1-(3,5-diisopropyl-[1,1′-biphenyl]-4-yl)-1H-imidazol-2-yl)phenol | 5.12 g, 95% | C(C)(C)C=1C=C(C=C(C1N1C(=NC=C1)C=1C=C(C=CC1)O)C(C)C)C1=CC=CC=C1 | C27H28N2O
